US06429314B1
To 3 g of 3-(1-hydroxyethyl)-1-adamantanol were added 60 ml of toluene, 0.4 g of 98% sulfuric acid, and 0.01 g of hydroquinone, and the resultant mixture was stirred for 5 hours with azeotropic distillation and dehydration. The reaction mixture was cooled, was washed with a saturated aqueous sodium bicarbonate and saturated sodium chloride aqueous solution, and was then concentrated. The residue was purified by column chromatography on a silica gel (SiO2 80 g, developing solution: hexane/ethyl acetate=10/1) to give 1.5 g of 3-vinyl-1-adamantanol.

reactant | 3-(1-hydroxyethyl)-1-adamantanol | 3 g | OC(C)C12CC3(CC(CC(C1)C3)C2)O | C12H20O2
reactant | sulfuric acid | 0.4 g | S(O)(O)(=O)=O | H2O4S
catalyst | hydroquinone | 0.01 g | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 3-vinyl-1-adamantanol | 1.5 g | C(=C)C12CC3(CC(CC(C1)C3)C2)O | C12H18O
